US06919349B2
To a solution of 177 mg (0.34 mmol) of 2-benzyloxycarbonylamino-3-((3-methyl-4-oxo-1-phenyl-1,3,8,-triazaspiro[4.5]decane-8-carbonyl)amino)propionic acid methyl ester in 4 ml of tetrahydrofuran, 4 ml of 0.1M aqueous lithium hydroxide solution was added, and the resulting mixture was stirred overnight at 0° C. To the reaction mixture, 0.1M hydrochloric acid was added, and the resulting mixture was extracted with ethyl acetate. Organic phases were combined, washed with saturated saline, dried over anhydrous sodium sulfate, and concentrated. The residue was reprecipitated from ether/chloroform to obtain 143 mg of 2-benzyloxycarbonylamino-3-((3-methyl-4-oxo-1-phenyl-1,3,8,-triazaspiro[4.5]decane-8-carbonyl)amino)propionic acid (yield: 83%).

reactant | 2-benzyloxycarbonylamino-3-((3-methyl-4-oxo-1-phenyl-1,3,8,-triazaspiro[4.5]decane-8-carbonyl)amino)propionic acid methyl ester | 0.34 mmol, 177 mg | COC(C(CNC(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)C)=O)CC1)NC(=O)OCC1=CC=CC=C1)=O | C27H33N5O6
reactant | hydrochloric acid | 0.1M | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | lithium hydroxide | 0.1M, 4 ml | [OH-].[Li+]
product | 2-benzyloxycarbonylamino-3-((3-methyl-4-oxo-1-phenyl-1,3,8,-triazaspiro[4.5]decane-8-carbonyl)amino)propionic acid | 143 mg, yield: 83% | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)CNC(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)C)=O)CC1 | C26H31N5O6
